US08404709B2
4-(4-Cyano-2-methoxyphenyl)-2,8-dimethyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile
1773 mg (11.0 mmol) of 4-formyl-3-methoxybenzonitrile are dissolved with 1156 mg (11.0 mmol) of sodium 1-cyanoprop-1-en-2-olate, 1366 mg (11.0 mmol) of 4-amino-5-methylpyridin-2(1H)-one [Bisagni, E., Hung, N. C., Synthesis, 765-766 (1984)] and 945 μl (16.5 mmol) of acetic acid in 50 ml of 2-propanol and heated at the reflux temperature under argon for 20 h. After cooling, the reaction mixture is filtered and the precipitate is washed with 2-propanol and diethyl ether. The crude product is dissolved in 800 ml of dichloromethane/methanol by heating and, after addition of 500 ml of ethyl acetate, again concentrated to a volume of 50 ml. The precipitated product is filtered off and washed with ethyl acetate and diethyl ether. Drying under high vacuum results in 3.63 g (99% of theory) of the title compound in the form of yellowish crystals.

reactant | 4-formyl-3-methoxybenzonitrile | 11.0 mmol, 1773 mg | C(=O)C1=C(C=C(C#N)C=C1)OC | C9H7NO2
reactant | sodium 1-cyanoprop-1-en-2-olate | 11.0 mmol, 1156 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 4-amino-5-methylpyridin-2(1H)-one | 11.0 mmol, 1366 mg | NC1=CC(NC=C1C)=O | C6H8N2O
reactant | acetic acid | 16.5 mmol, 945 μl | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | 4-(4-Cyano-2-methoxyphenyl)-2,8-dimethyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile | C(#N)C1=CC(=C(C=C1)C1C(=C(NC=2C(=CNC(C12)=O)C)C)C#N)OC | C19H16N4O2
